US06949579B2
N-[6-chloro-1H-indazol-3-yl]-2-thiophenacetamide
0.73 cm3 of 2-thiopheneacetyl chloride is added to 1 g of 6-chloro-1H-indazole-3-amine in 15 cm3 of pyridine, cooled to about 3° C. The reaction medium is allowed to return to about 19° C. over 21 hours and is then evaporated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 25 cm3 of ethyl acetate, 10 cm3 of tetrahydrofuran and 25 cm3 of distilled water. The organic phase is washed with 25 cm3 of distilled water and 25 cm3 of saturated aqueous sodium chloride solution. The resulting solution is dried over magnesium sulphate, filtered on a sinter funnel, rinsed with 5 cm3 of dimethylformamide and then evaporated under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4 cm), eluting with a dichloromethane/methanol mixture (99/1 by volume) and collecting 15 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 45° C.), 210 mg of N-[6-chloro-1H-indazol-3-yl]-2-thiophenacetamide are obtained in the form of a white solid melting at 210° C.

reactant | 2-thiopheneacetyl chloride | 0.73 cm3 | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | 6-chloro-1H-indazole-3-amine | 1 g | ClC1=CC=C2C(=NNC2=C1)N | C7H6ClN3
solvent | pyridine | 15 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[6-chloro-1H-indazol-3-yl]-2-thiophenacetamide | ClC1=CC=C2C(=NNC2=C1)NC(CC=1SC=CC1)=O | C13H10ClN3OS
